US07728129B2
(4-Isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone
To a solution of 4-(4-isopropyl-piperazine-1-carbonyl)-benzaldehyde (4.0 g, 15.38 mmol) in THF (40 mL) was added morpholine (2.9 g, 33.83 mmol), and the resulting mixture was stirred at room temperature for 1 h before it was cooled to 0° C. with an ice bath. The reaction mixture was then treated with NaBH(OAc)3 (4.56 g, 21.53 mmol) in portions over 15 min. The resulting suspension was stirred at room temperature until it was deemed complete by HPLC. After completion, 10% NaOH (25 mL) was added and the reaction was vigorously agitated for 15 min. The phases were separated and the aqueous layer was extracted with THF (20 mL). The organic layers were combined, dried (MgSO4), filtered and concentrated to yield the title compound as a yellow oil.

reactant | 4-(4-isopropyl-piperazine-1-carbonyl)-benzaldehyde | 15.38 mmol, 4.0 g | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=O)C=C1 | C15H20N2O2
reactant | morpholine | 33.83 mmol, 2.9 g | N1CCOCC1 | C4H9NO
reactant | NaBH(OAc)3 | 21.53 mmol, 4.56 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 25 mL | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (4-Isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | C19H29N3O2
